* CMOS Inverter - SKY130
* Author: Sanchaika Singh

.lib "/usr/local/share/pdk/sky130A/libs.tech/combined/sky130.lib.spice" tt

XM2 Vout VIN VDD VDD sky130_fd_pr__pfet_01v8 W=1 L=0.15 nf=1 ad=0 as=0 pd=0 ps=0 mult=1
XM1 Vout VIN GND GND sky130_fd_pr__nfet_01v8 W=1 L=0.15 nf=1 ad=0 as=0 pd=0 ps=0 mult=1

Vvdd VDD 0 DC 1.8
VIN VIN 0 PULSE(0 1.8 1n 100p 100p 5n 10n)

.tran 10p 30n

.control
  run
  set xbrushwidth=2
  hardcopy cmos_waveform.ps V(VIN) V(Vout)
  write cmos_inverter.raw
.endc

.end
